US06762318B2
1-(3,5-Dichlorophenyl)ethanone
3,5-Dichlorobenzoic acid (19,10 g, 100 mmol) was dissolved in dry THF (165 mL) and cooled to 0° C. in an ice bath. With vigorous stirring, 138 mL (210 mmol) of methyl lithium (1.6 M in diethyl ether) was added dropwise over a period of 30 min via syringe. After 1 hour the mixture was poured into ice-water (500 mL). The aqueous phase was extracted with diethyl ether (4×50 mL). The combined organic phases were washed with saturated aqueous sodium hydrogen carbonate (2×50 mL) and saturated aqueous sodium chloride (2×50 mL). The organic phase was dried (magnesium sulphate), filtered and the solvent was removed in vacuo. This afforded 17.06 g of the title compound containing 18% by weight of 2-(3,5-dichlorophenyl)propan-2-ol. This compound was used in the next step without further purification.

reactant | 3,5-Dichlorobenzoic acid | 100 mmol, 19,10 g | ClC=1C=C(C(=O)O)C=C(C1)Cl | C7H4Cl2O2
reactant | methyl lithium | 210 mmol, 1.6 M, 138 mL | C[Li]
solvent | THF | 165 mL | C1CCOC1 | C4H8O
product | 1-(3,5-Dichlorophenyl)ethanone | ClC=1C=C(C=C(C1)Cl)C(C)=O | C8H6Cl2O
